US07220856B2
Preparation of 7-Chloro-4-[4-(cyanimino(4-fluorophenylamino)methyl)piperazin-1-yl]quinoline
Diphenyl cyanocarbonimidate (0.24 g, 1.0 mmol) and 4-fluoroaniline (104 4μL, 1.1 mmol) are stirred in isopropanol (10 mL) for 15 h. The reaction mixture is concentrated, and the residue dissolved in EtOAc. Washing with sat NaHCO3, drying (MgSO4) and removing the solvent delivers 0.34 g of N-cyano-N′-(4-fluorophenyl)-O-phenylisourea as a colorless solid. It is dissolved in pyridine (15 mL) and 7-chloro-4-(piperazin-1-yl)quinoline (0.25 g, 1.0 mmol) is added. The reaction mixture is heated at reflux for 4 h and afterwards concentrated. Column chromatography of the residue with hexane-EtOAc gives the title product as a colorless solid.

reactant | Diphenyl cyanocarbonimidate | 1.0 mmol, 0.24 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | 4-fluoroaniline | 1.1 mmol, 4μL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 1.0 mmol, 0.25 g | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 7-Chloro-4-[4-(cyanimino(4-fluorophenylamino)methyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(NC1=CC=C(C=C1)F)=NC#N | C21H18ClFN6
